US09063126B2
ethyl 1-(3-ethoxy-3-oxopropyl)piperidine-3-carboxylate
A 25 mL round-bottom flask was charged with ethyl nipecotate (4.0 mL, 25.7 mmol, Aldrich) and ethyl acrylate (3.4 mL, 31.4 mmol; Aldrich). The flask was purged with nitrogen and the mixture was heated to 80° C. for 20 hours, then purified by silica gel chromatography (ethyl acetate-dichloromethane-triethylamine 50:50:1; Rf=0.28) to afford the title compound: 1H NMR (300 MHz, CDCl3) δ ppm 1.23-1.28 (m, 6H), 1.42-1.59 (m, 2H), 1.68-1.74 (m, 1H), 1.89-1.95 (m, 1H), 2.01-2.08 (m, 1H), 2.17-2.24 (m, 1H), 2.46-2.56 (m, 3H), 2.68-2.76 (m, 3H), 2.94-2.99 (m, 1H), 4.09-4.17 (m, 1H); MS (DCI/NH3) m/z 258 (M+H)+.

reactant | ethyl nipecotate | 25.7 mmol, 4.0 mL | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | ethyl acrylate | 31.4 mmol, 3.4 mL | C(C=C)(=O)OCC | C5H8O2
product | ethyl 1-(3-ethoxy-3-oxopropyl)piperidine-3-carboxylate | C(C)OC(CCN1CC(CCC1)C(=O)OCC)=O | C13H23NO4
